US07381719B2
Step 8: 6-[3-(2,2,2-Trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy]nicotinamide
Add 2,2,2-trifluoro-1-(7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)ethanone (0.750 g, 2.89 mmol), 6-chloronicotinamide (0.377 g, 2.41 mmol) and K2CO3 (0.833 g, 6.03 mmol) to a round bottom equipped with a Dean-Stark trap. Add toluene (6 mL) and DMF (18 mL). Heat at reflux for two hours. Cool the reaction mixture to 100° C. and stir overnight. Remove the toluene and DMF as an azeotrope with xylenes. Suspend the solid in 5% methanol/ethyl acetate (100 mL) and filter. Wash the filter cake with ethyl acetate. Concentrate the filtrate, then purify by flash chromatography, eluting with 40% ethyl acetate in dichloromethane to give the title compound (0.312 g, 34.0%): MS ES+ 380 (M+H)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=8.5 min, 89% purity.

reactant | 2,2,2-trifluoro-1-(7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)ethanone | 2.89 mmol, 0.750 g | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)O)(F)F | C12H12F3NO2
reactant | 6-chloronicotinamide | 2.41 mmol, 0.377 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 6.03 mmol, 0.833 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | 6-[3-(2,2,2-Trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy]nicotinamide | 0.312 g, 34.0% | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)OC2=NC=C(C(=O)N)C=C2)(F)F | C18H16F3N3O3
